US04297129
3,5-Dioxo-4-sodio-2,3,4,5-tetrahydro-1,2,4-triazine monohydrate (770 mg) dissolved in water (60 ml) is hydrogenated for 4 hours in the presence of platinum oxide (100 mg) at atmospheric pressure. The catalyst is filtered off, and the filtrate is concentrated in vacuo to give a colorless transparent liquid. The liquid is dissolved in ethanol (30 ml), and the solvent is then removed in vacuo to give amorphous solids of 3,5-dioxo-4-sodio-hexahydro-1,2,4-triazine dihydrate (Compound No. 4). Yield, 850 mg (98.2%). Softening temperature, 122.3° C.

reactant | 3,5-Dioxo-4-sodio-2,3,4,5-tetrahydro-1,2,4-triazine monohydrate | 770 mg | O.O=C1NN=CC(N1[Na])=O
solvent | water | 60 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | platinum oxide | 100 mg | [Pt]=O
product | 3,5-dioxo-4-sodio-hexahydro-1,2,4-triazine dihydrate | O.O.O=C1NNCC(N1[Na])=O | InChI=1S/C3H5N3O2.Na.2H2O/c7-2-1-4-6-3(8)5-2;;;/h4H,1H2,(H2,5,6,7,8);;2*1H2/q;+1;;/p-1
